US07678818B2
Formic acid (1.76 ml) was added to acetic acid anhydride (0.91 ml) at 0° C. The solution was stirred for 10 min at this temperature. The reaction was heated under nitrogen to 55° C. for 2 h. The reaction mixture was cooled to 0° C. 4-Chloro-3-fluoroaniline (1.07 g) dissolved in THF (2 ml) was added and the reaction was stirred over night at RT. The solvent was evaporated in vacuo. The residue was dissolved in THF (4 ml). The solution was cooled to 0° C. and borane tetrahydrofuran complex 1M in THF (16.2 ml) was added slowly. Strong gas evolution was observed. The reaction was heated to reflux for 3 h, then cooled to 0° C. and MeOH (4 ml) was added dropwise. The reaction was stirred for 1 h and 1M aq HCl solution (6 ml) was added. The reaction was stirred over night at RT. The solvent was removed in vacuo and the pH of the aqueous layer was adjusted to 9 with 2N aq NaOH solution. The reaction mixture was extracted twice with diethyl ether and the combined organic layers were dried over sodium sulfate, filtered and the solvent was removed in vacuo to yield (4-chloro-3-fluoro-phenyl)-methyl-amine (1150 mg, 98%) as a light brown oil. 1HNMR (DMSO-d6, 300 MHz): δ 2.65 (d, J=5.1 Hz, 3H), 6.15 (d, J=5.1 Hz, 1H), 6.20 (dd, J=3.0 and J=8.4 Hz, 1H), 6.45 (dd, J=2.4 and 12.3 Hz, 1H), 7.18 (t, J=8.7 Hz, 1H).

reactant | Formic acid | 1.76 ml | C(=O)O | CH2O2
reactant | acetic acid anhydride | 0.91 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-Chloro-3-fluoroaniline | 1.07 g | ClC1=C(C=C(N)C=C1)F | C6H5ClFN
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (4-chloro-3-fluoro-phenyl)-methyl-amine | 1150 mg, 98% | ClC1=C(C=C(C=C1)NC)F | C7H7ClFN
